US04225476
B. Preparation of Ethylene/Vinyl Acetate/Maleic Anhydride Copolymer
A terpolymer containing 60.3 percent ethylene, 38 weight percent vinyl acetate, and 1.7 percent maleic anhydride, and displaying a melt index of 220 g./10 min. was prepared at the rate of 0.68 kg./hr. in a continuous 0.72-liter stirred autoclave by the following procedure. Monomers were mixed, pressured to 1900 kg./sq. cm., and fed at these rates:

reactant | ethylene | C=C | C2H4
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Ethylene/Vinyl Acetate Maleic Anhydride | C=C.C(C)(=O)OC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6O2.C2H4/c5-3-1-2-4(6)7-3;1-3-6-4(2)5;1-2/h1-2H;3H,1H2,2H3;1-2H2
